US07265149B2
In analogy to the procedure described for example 1 f], (6-{3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propoxy}-indol-1-yl)-acetic acid ethyl ester was treated with LiOH to obtain (6-{3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propoxy}-indol-1-yl)-acetic acid as colorless crystals.

reactant | (6-{3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propoxy}-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCCC=1N(N=C(C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H26F3N3O3
reactant | LiOH | [Li+].[OH-]
product | (6-{3-[2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-propoxy}-indol-1-yl)-acetic acid | CN1N=C(C=C1CCCOC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N3O3
